US08865707B2
To a solution of (6S)-6-(2-methoxyphenyl)-1,3-oxazinan-2-one (31.6 mg, 0.152 mmol) in DMF (1.5 mL) was added t-BuOK (16.5 mg, 0.144 mmol). The reaction was stirred for 15 minutes, then a solution of 2″-(bromomethyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate (75 mg, 0.152 mmol) in DMF (15 mL) was added via cannula. The reaction was stirred at room temperature for 1 hour, and then quenched with saturated NH4Cl solution (10 mL), diluted with EtOAc (20 mL), washed with brine (10 mL), dried over Na2SO4, filtered, and concentrated. The residue was purified by silica gel chromatography (10 to 50% EtOAc/hexanes) to afford methyl 4′-methoxy-2″-{[(6S)-6-(2-methoxyphenyl)-2-oxo-1,3-oxazinan-3-yl]methyl}-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate LCMS=619.8 (M+1)+. 1H NMR (CDCl3, 500 MHz, rotamers present) δ 7.78-7.94 (m, 2H), 7.68 (s, 1H), 7.60 (t, J=9.0 Hz, 1H), 7.25-7.44 (m, 5H), 6.79-7.15 (m, 4H), 5.58 (dd, J=9.2, 2.5 Hz), 5.32 (dd, J=9.2, 2.5 Hz), 4.76 (d, J=15.3 Hz, 1H), 4.57 (d, J=15.3 Hz), 4.48 (d, J=15.6 Hz), 3.92 (s, 3H), 3.86 (s), 3.84 (s), 3.80 (s), 3.65 (s), 2.88-3.16 (m, 2H), 2.35 (s), 2.32 (s), 1.85-2.20 (m, 2H).

reactant | (6S)-6-(2-methoxyphenyl)-1,3-oxazinan-2-one | 0.152 mmol, 31.6 mg | COC1=C(C=CC=C1)[C@@H]1CCNC(O1)=O | C11H13NO3
reactant | t-BuOK | 0.144 mmol, 16.5 mg | CC(C)(C)[O-].[K+]
reactant | 2″-(bromomethyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | 0.152 mmol, 75 mg | BrCC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)[O-])C
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | methyl 4′-methoxy-2″-{[(6S)-6-(2-methoxyphenyl)-2-oxo-1,3-oxazinan-3-yl]methyl}-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | COC1=C(C=C(C=C1)C1=C(C=C(C=C1)C(=O)OC)C)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H](CC1)C1=C(C=CC=C1)OC)=O | C35H32F3NO6
